US05338739
3-[1-Phenylmethyl-2pyrrolidinyl]phenyl methylcarbamate
To a solution of 3-[1-phenylmethyl-2-pyrrolidinyl]phenol (1.0 g) in dry tetrahydrofuran (50 ml) was added methyl isocyanate (0.24 ml) followed by milled potassium carbonate (0.7 g) at ambient temperature, under nitrogen. The reaction mixture was stirred for 1 hr, filtered through a pad of celite, and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated. The residue was purified by flash column chromatography (silica gel, dichloromethane/0-10% ethyl acetate). The appropriate fractions were collected and concentrated to give 0.8 g (70%) of product.

reactant | 3-[1-phenylmethyl-2-pyrrolidinyl]phenol | 1.0 g | C1(=CC=CC=C1)CN1C(CCC1)C=1C=C(C=CC1)O | C17H19NO
reactant | methyl isocyanate | 0.24 ml | CN=C=O | C2H3NO
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[1-Phenylmethyl-2pyrrolidinyl]phenyl methylcarbamate | 0.8 g, 70% | CNC(OC1=CC(=CC=C1)C1N(CCC1)CC1=CC=CC=C1)=O | C19H22N2O2
